### PR TITLE
feat: add list function and lemmas

### PR DESCRIPTION
**Pull request by chabulhwi**
* Add 'leftover' lemmas I created while trying to prove
  `String.splitOn_of_valid`. See
  https://github.com/leanprover-community/batteries/pull/743.
* Add the function `List.commonPrefix` and its lemmas. It returns the
  longest common prefix of two lists.

### CODE REVIEW

**Comment by chabulhwi** [comment]
awaiting-review

File: Batteries/Data/List/Lemmas.lean [hunk 1]
```diff
@@ -19,6 +19,15 @@ namespace List
 
 @[deprecated (since := "2024-08-15")] alias isEmpty_iff_eq_nil := isEmpty_iff
 
+/-! ### head and tail -/
+
+theorem head_cons_tail : ∀ l h, @head α l h :: l.tail = l
```
Comment (eric-wieser) [inline Batteries/Data/List/Lemmas.lean:24]: Can you write this without the `@`?

File: Batteries/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -482,6 +491,34 @@ theorem Sublist.erase_diff_erase_sublist {a : α} :
 
 end Diff
 
+/-! ### prefix, suffix, infix -/
+
+theorem singleton_prefix_cons (a) : [a] <+: a :: l :=
+  (prefix_cons_inj a).mpr nil_prefix
```
Comment (eric-wieser) [inline Batteries/Data/List/Lemmas.lean:497]: If suitable `alias`es were added, this could be written `.cons a .nil`, which is then shorter than the lemma name.

File: Batteries/Data/List/Lemmas.lean (hunk 1 above)
Comment (chabulhwi) [reply Batteries/Data/List/Lemmas.lean:24]: In the following code, the `@` symbol was used in a similar way: https://github.com/leanprover-community/batteries/blob/5f963d5d06cc3c2d3abd0806891133137a59d7eb/Batteries/Data/List/Lemmas.lean#L22-L25.

File: Batteries/Data/List/Lemmas.lean (hunk 2 above)
Comment (chabulhwi) [reply Batteries/Data/List/Lemmas.lean:497]: Can you show me how to add those aliases? I'm not sure how to do it.

Comment (chabulhwi) [reply Batteries/Data/List/Lemmas.lean:497]: I'd like to hear what other maintainers think about adding these aliases.

File: Batteries/Data/List/Lemmas.lean (hunk 1 above)
Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean:24]: Using `@` is a bit old fashioned. This would math the style of the next theorem:
```suggestion
theorem head_cons_tail : ∀ (l : List α) (hne : l ≠ []), l.head hne :: l.tail = l
```

File: Batteries/Data/List/Lemmas.lean [hunk 3]
```diff
@@ -482,6 +491,34 @@ theorem Sublist.erase_diff_erase_sublist {a : α} :
...
+
+theorem ne_nil_of_not_prefix (h : ¬l₁ <+: l₂) : l₁ ≠ [] := by
+  intro heq
+  simp [heq, nil_prefix] at h
+
+theorem not_prefix_and_not_prefix_symm_iff_exists [BEq α] [LawfulBEq α] [DecidableEq α]
+    {l₁ l₂ : List α} : ¬l₁ <+: l₂ ∧ ¬l₂ <+: l₁ ↔ ∃ c₁ c₂ pre suf₁ suf₂, c₁ ≠ c₂ ∧
+      l₁ = pre ++ c₁ :: suf₁ ∧ l₂ = pre ++ c₂ :: suf₂ := by
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean:505]: Since all the `∃` parts are unique, we might as well have a function that computes the pieces and then prove the specs of that function.

Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean:505]: Namely:
```
def matchPrefix (l₁ l₂ : List α) : List α × List α × List α := ...

theorem match_prefix_spec : matchPrefix l₁ l₂ = (p, t₁, t₂) ↔ t₁.head? ≠ t₂.head? ∧ l₁ = p ++ t₁ ∧ l₂ = p ++ t₂ := ...
```

File: Batteries/Data/List/Lemmas.lean (hunk 2 above)
Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean:497]: These types of aliases never really caught on outside Mathlib as far as I can tell. They're convenient for sure but I'm not sure that kind of convenience is a good fit for Batteries. I would rather see more automation than these types of shortcuts as far as Batteries is concerned.

File: Batteries/Data/List/Lemmas.lean (hunk 3 above)
Comment (eric-wieser) [reply Batteries/Data/List/Lemmas.lean:505]: `t₁.head? ≠ t₂.head? ` is wrong there, it fails when both lists are equal and the tails are empty

Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean:505]: Sorry, I was typing too quick. The lemma assumes that neither list is a prefix of each other. This is a better version:
```lean
theorem matchPrefix_spec : matchPrefix l₁ l₂ = (p, t₁, t₂) ↔ l₁ = l₂ ∨ t₁.head? ≠ t₂.head? ∧ l₁ = p ++ t₁ ∧ l₂ = p ++ t₂ := ...
```

Comment (chabulhwi) [reply Batteries/Data/List/Lemmas.lean]: I renamed and restated the theorem as follows:

```lean
List.theorem not_prefix_and_not_prefix_symm_iff {l₁ l₂ p t₁ t₂ : List α} (hp : commonPrefix l₁ l₂ = p)
    (h₁ : l₁ = p ++ t₁) (h₂ : l₂ = p ++ t₂) : ¬l₁ <+: l₂ ∧ ¬l₂ <+: l₁ ↔ t₁ ≠ [] ∧ t₂ ≠ [] ∧
      t₁.head? ≠ t₂.head? := by
  sorry
```

**Review by chabulhwi — COMMENTED** [review]
Why do I have to clean up these unwanted hypotheses?

File: Batteries/Data/List/Lemmas.lean [hunk 4]
```diff
@@ -482,6 +491,93 @@ theorem Sublist.erase_diff_erase_sublist {a : α} :
...
+    obtain ⟨a₂, t₂, rfl⟩ := exists_cons_of_ne_nil ht₂
+    simp only [head?_cons, ne_eq, Option.some.injEq] at hhd
+    rw [← ne_eq] at hhd
+    simp [prefix_append_right_inj, not_and_of_not_left _ hhd, not_and_of_not_left _ hhd.symm]
+termination_by l₁.length
+decreasing_by
+  rename_i _₀ _l₁ _₁ _₂ _₃ _₄ _₅ _₆ _₇ _r _₈ _₉ _₁₀ _₁₁ _₁₂ _₁₃ _₁₄ _₁₅ _₁₆ _₁₇ _₁₈ _hl₁ _₁₉ _₂₀ _₂₁
+    _₂₂ _₂₃ _₂₄ _₂₅ _₂₆ _₂₇
+  clear _₀ _₁ _₂ _₃ _₄ _₅ _₆ _₇ _r _₈ _₉ _₁₀ _₁₁ _₁₂ _₁₃ _₁₄ _₁₅ _₁₆ _₁₇ _₁₈ _₁₉ _₂₀ _₂₁ _₂₂ _₂₃ _₂₄
+    _₂₅ _₂₆ _₂₇
```
Comment (chabulhwi) [inline Batteries/Data/List/Lemmas.lean:575]: Why do I have to clean up these unwanted hypotheses?

File: Batteries/Data/List/Lemmas.lean (hunk 2 above)
Comment (eric-wieser) [reply Batteries/Data/List/Lemmas.lean:497]: Here's an argument for why we should have them; you could imagine an alternative world where `IsPrefix` is defined as
```lean
inductive IsPrefix where
| nil {l} : IsPrefix [] l
| cons (a) {l1 l2} : IsPrefix l1 l2 -> IsPrefix (a :: l1) (a :: l2)
```

The API should be agnostic to the actual implementation chosen, and so we should provide `nil` and `cons`  anyway.

File: Batteries/Data/List/Lemmas.lean (hunk 4 above)
Comment (kmill) [reply Batteries/Data/List/Lemmas.lean:565]: Suggestion:
```lean
theorem not_prefix_and_not_prefix_symm_iff {l₁ l₂ p t₁ t₂ : List α} (hp : commonPrefix l₁ l₂ = p)
    (h₁ : l₁ = p ++ t₁) (h₂ : l₂ = p ++ t₂) : ¬l₁ <+: l₂ ∧ ¬l₂ <+: l₁ ↔ t₁ ≠ [] ∧ t₂ ≠ [] ∧
      t₁.head? ≠ t₂.head? := by
  subst_vars
  rw [prefix_append_right_inj, prefix_append_right_inj]
  rw [commonPrefix_append_append, append_right_eq_self] at hp
  cases t₁ <;> cases t₂
  · simp
  · simp
  · simp
  · simp only [commonPrefix, ite_eq_right_iff, reduceCtorEq, imp_false] at hp
    simp [Ne.symm hp, hp]
```

File: Batteries/Data/List/Lemmas.lean [hunk 5]
```diff
@@ -482,6 +491,83 @@ theorem Sublist.erase_diff_erase_sublist {a : α} :
...
+  | [],   _  => simp [commonPrefix]
+  | _::_, [] => simp [commonPrefix]
+  | a₁::l₁, a₂::l₂ =>
+    simp only [commonPrefix]
+    cases Decidable.em (a₁ = a₂)
+    · next h =>
+      simp only [h, ↓reduceIte, cons_prefix_cons, true_and]
+      apply commonPrefix_prefix_left
+    · next h =>
+      simp [h]
```
Comment (kmill) [inline Batteries/Data/List/Lemmas.lean:518]: I don't usually see `cases Decidable.em` in code. Instead I'd see `by_cases`:
```suggestion
    by_cases h : a₁ = a₂
    · simp only [h, ↓reduceIte, cons_prefix_cons, commonPrefix_prefix_left, and_self]
    · simp [h]
```
or `split` since there's an `if`:
```suggestion
    split
    next h =>
      simp only [h, cons_prefix_cons, true_and, commonPrefix_prefix_left]
    next h =>
      simp [h]
```

File: Batteries/Data/List/Lemmas.lean [hunk 6]
```diff
@@ -482,6 +491,83 @@ theorem Sublist.erase_diff_erase_sublist {a : α} :
...
+  | [],   _  => simp [commonPrefix]
+  | _::_, [] => simp [commonPrefix]
+  | a₁::l₁, a₂::l₂ =>
+    simp only [commonPrefix]
+    cases Decidable.em (a₁ = a₂)
+    · next h =>
+      simp only [h, ↓reduceIte, cons_prefix_cons, true_and]
+      apply commonPrefix_prefix_right
+    · next h =>
+      simp [h]
```
Comment (kmill) [inline Batteries/Data/List/Lemmas.lean:531]: You can make use of previous work by adding an important `commonPrefix` lemma:
```lean
theorem commonPrefix_comm (l₁ l₂ : List α) : commonPrefix l₁ l₂ = commonPrefix l₂ l₁ := by
  induction l₁ generalizing l₂ with
  | nil => cases l₂ <;> rfl
  | cons a₁ l₂ ih =>
    cases l₂
    · rfl
    · unfold commonPrefix
      split
      · subst_vars
        simp [ih]
      next h =>
        simp [Ne.symm h]

theorem commonPrefix_prefix_right (l₁ l₂ : List α) : commonPrefix l₁ l₂ <+: l₂ := by
  rw [commonPrefix_comm]
  apply commonPrefix_prefix_left
```

File: Batteries/Data/List/Lemmas.lean (hunk 5 above)
Comment (eric-wieser) [reply Batteries/Data/List/Lemmas.lean:518]: In mathlib we'd often use `obtain rfl | hxy := Decidable.eq_or_ne x y`; perhaps that should be upstreamed to batteries?

Comment (chabulhwi) [reply Batteries/Data/List/Lemmas.lean:518]: > I don't usually see `cases Decidable.em` in code. Instead I'd see `by_cases`:

It opens the `Classical` namespace, doesn't it? The `simp` tactic have already used classical theorems, anyway.

File: Batteries/Data/List/Lemmas.lean (hunk 6 above)
Comment (chabulhwi) [reply Batteries/Data/List/Lemmas.lean:531]: Thanks! I changed the proof of the theorem `List.commonPrefix_comm` a bit.

File: Batteries/Data/List/Lemmas.lean (hunk 4 above)
Comment (chabulhwi) [reply Batteries/Data/List/Lemmas.lean]: Thanks! I changed your proof a bit.

File: Batteries/Data/List/Lemmas.lean (hunk 2 above)
Comment (chabulhwi) [reply Batteries/Data/List/Lemmas.lean:497]: @eric-wieser The relation `List.IsPrefix` is defined in Lean's core library. Where should we put the aliases? Lean's core or Batteries?

**Comment by fgdorais** [comment]
The `commonPrefix` addition is good but let's move it to a separate PR.

**Comment by chabulhwi** [comment]
I'll split this pull request in two.

**Comment by fgdorais** [comment]
Don't close this one! We want to keep the review history for the other parts.

File: Batteries/Data/List/Lemmas.lean (hunk 2 above)
Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean:497]: That's a fair point @eric-wieser ! However, in that alternate world, I might think that since `IsPrefix` is a `Prop`, its constructors should follow proper theorem naming conventions...

Anyway, I'm not vehemently opposed to these aliases, I just don't think they're necessary.

**Comment by chabulhwi** [comment]
@fgdorais Shall I close #993?

**Comment by fgdorais** [comment]
Yes.

File: Batteries/Data/List/Lemmas.lean (hunk 2 above)
Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean:497]: Should be `nil_isPrefix` and `cons_isPrefix_cons`, no?

File: Batteries/Data/List/Lemmas.lean [hunk 7]
```diff
@@ -482,6 +491,15 @@ theorem Sublist.erase_diff_erase_sublist {a : α} :
...
 end Diff
 
+/-! ### prefix, suffix, infix -/
+
+theorem singleton_prefix_cons (a) : [a] <+: a :: l :=
+  (prefix_cons_inj a).mpr nil_prefix
+
+theorem ne_nil_of_not_prefix (h : ¬l₁ <+: l₂) : l₁ ≠ [] := by
+  intro heq
+  simp [heq, nil_prefix] at h
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean:501]:
```suggestion
theorem ne_nil_of_not_prefix : ¬l₁ <+: l₂ → l₁ ≠ [] := by
  apply mt; intro h; simp [h]
```

**Review by fgdorais — CHANGES_REQUESTED** [review]
